US08003808B2
To a solution of 20% sodium ethoxide•ethanol solution (34.0 g) diluted with ethanol (40 ml) was added a solution of diethyl malonate (16.0 g) in ethanol (40 ml) dropwise over 30 minutes in ice-cooling. After stirring in ice-cooling for additional 30 minutes, thereto was added 2-chloroacetamide (4.7 g) in one portion and the mixture was stirred in ice-cooling for 30 minutes and then at room temperature for 20 hours. The white solid precipitated was collected by filtering and washed with a small amount of ethanol. This white solid was dissolved in water (300 ml) and this resulting aqueous solution was acidified with conc. hydrochloric acid and extracted with dichloromethane (50 ml) three times. The extract was dried over magnesium sulfate, filtered and concentrated to give a yellow oil. This was purified by a flash column chromatography (n-hexane:ethyl acetate=2:1→1:1) to give ethyl 2,5-dioxopyrrolidine-3-carboxylate (5.63 g, 66%).

reactant | sodium ethoxide•ethanol | 34.0 g | [O-]CC.[Na+].C(C)O
reactant | diethyl malonate | 16.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-chloroacetamide | 4.7 g | ClCC(=O)N | C2H4ClNO
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 2,5-dioxopyrrolidine-3-carboxylate | 5.63 g, 66% | O=C1NC(CC1C(=O)OCC)=O | C7H9NO4
